US05098922
The reaction of 320 mg (1.5 mmol) of 1-ethoxy-2-(2,6-difluorophenyl)-1-(N-methylimino)-ethane and 155 mg (1.5 mmol) of oxalic acid monoamide monohydrazide can be carried out, in a manner analogous to that described in Example 1, but using 5 ml of N,N-dimethylformamide as solvent. 102 mg (27% of the theoretical yield) of 5-(2,6-difluorobenzyl)-4-methyl-4H-1,2,4-triazole-3-carboxamide of m.p. 186-189° are likewise obtained.

reactant | 1-ethoxy-2-(2,6-difluorophenyl)-1-(N-methylimino)-ethane | 1.5 mmol, 320 mg | C(C)OC(CC1=C(C=CC=C1F)F)=NC | C11H13F2NO
reactant | oxalic acid monoamide monohydrazide | 1.5 mmol, 155 mg | C(C(=O)NN)(=O)N | C2H5N3O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-(2,6-difluorobenzyl)-4-methyl-4H-1,2,4-triazole-3-carboxamide | FC1=C(CC=2N(C(=NN2)C(=O)N)C)C(=CC=C1)F | C11H10F2N4O
